US07282512B2
A mixture of 8.75 g (17.4 mmol) of (2S)-2-{[(benzyloxy)carbonyl]amino}-1-({[(1R)-1-phenylethyl]amino}carbonyl)hexyl benzoate and 6.97 g (174 mmol) of sodium hydroxide in 175 mL of dioxane and 75 mL of water was heated to reflux for 3 h and then let cool to room temperature. The reaction was diluted with 100 mL of water and extracted with ethyl acetate. The combined ethyl acetate layers were dried over potassium carbonate and concentrated to afford 4.38 g (95%) of (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.08 (d, J=8 Hz, 1H), 7.39-7.20 (m, 5H), 4.99 (m, 1H), 4.51 (bs, 1H), 3.71 (d, J=3 Hz, 1H), 2.81 (m, 1H), 1.50-1.05 (m, 9H), 0.87 (t, 3H). ES-LCMS m/z 265 (M+H).

reactant | (2S)-2-{[(benzyloxy)carbonyl]amino}-1-({[(1R)-1-phenylethyl]amino}carbonyl)hexyl benzoate | 17.4 mmol, 8.75 g | C(C1=CC=CC=C1)(=O)OC([C@H](CCCC)NC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](C)C1=CC=CC=C1 | C30H34N2O5
reactant | sodium hydroxide | 174 mmol, 6.97 g | [OH-].[Na+]
solvent | dioxane | 175 mL | O1CCOCC1 | C4H8O2
solvent | water | 75 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | (3S)-3-amino-2-hydroxy-N-[(1R)-1-phenylethyl]heptanamide | 4.38 g, 95% | N[C@H](C(C(=O)N[C@H](C)C1=CC=CC=C1)O)CCCC | C15H24N2O2
